US06797718B2
Sodium thiomethoxide (1.5 g, 21 mmol) was added to a solution of 1-(5-chloropentyl)-2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridine (7.00 g, 19 mmol) in anhydrous N,N-dimethylformamide (80 mL). The reaction mixture was stirred at ambient temperature for 1.5 hours, then it as quenched with water and extracted with ethyl acetate (250 mL). The extract was washed with water (5×50 mL), dried over magnesium sulfate and then concentrated under reduced pressure to provide 6.73 g of 2,6,7-trimethyl-1-[5-(methylthio)pentyl]-4-phenoxy-1H-imidazo[4,5-c]pyridine.

reactant | Sodium thiomethoxide | 21 mmol, 1.5 g | C[S-].[Na+]
reactant | 1-(5-chloropentyl)-2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridine | 19 mmol, 7.00 g | ClCCCCCN1C(=NC=2C(=NC(=C(C21)C)C)OC2=CC=CC=C2)C | C20H24ClN3O
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 2,6,7-trimethyl-1-[5-(methylthio)pentyl]-4-phenoxy-1H-imidazo[4,5-c]pyridine | 6.73 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCCCCSC | C21H27N3OS
